US04973731
Using the method of Example 1, 17.8 g (0.11 mole) of 5-bromo-pentanenitrile was reacted with 20.6 g (0.10 mole) of 3,5-di-t-butylphenol to give 17.8 g of white crystalline 5-(3,5-di-t-butylphenoxy)pentanenitrile, m.p. 61°-64° C. Analysis: Calculated for: C19H29NO: %C, 79.4; , %H, 10.2; %N, 4.9; Found: %C, 79.0; %H, 10.3; %N, 5.1.

reactant | 5-bromo-pentanenitrile | 0.11 mole, 17.8 g | BrCCCCC#N | C5H8BrN
reactant | 3,5-di-t-butylphenol | 0.10 mole, 20.6 g | C(C)(C)(C)C=1C=C(C=C(C1)C(C)(C)C)O | C14H22O
product | 5-(3,5-di-t-butylphenoxy)pentanenitrile | 17.8 g | C(C)(C)(C)C=1C=C(OCCCCC#N)C=C(C1)C(C)(C)C | C19H29NO
